US04442030
N-(1-Carboxy-3-oxo-3-phenylpropyl)-L-alanyl-L-proline
To a solution of L-alanyl-L-proline hydrochloride (2.26 g; 10.2 mmol) and 3-benzoylacrylic acid (1.97 g; 11.2 mmol) in methanol (50 ml) there was added sodium bicarbonate (1.71 g; 20.3 mmol) and the mixture was stirred for 48 hours. After filtration and evaporation, the residue was purified on DOWEX 50W-XY using 10:1 H2O:CH3OH and then 50:1 H2 :pyr as eluants. Freeze drying of the H2 :pyr fractions gave the product as a mixture (1:1) of diastereomers (2.68 g; 7.40 mmol; 73%). MS: m/e 461 (bis trimethylsilyl M⊕ -CO2TMS). TLC (silica gel; 3:1:1:1 EtOAc, BuOH, HOAc, H2O) Rf=0.35. NMR (D2O): 1.08 (minor), 1.18 (minor), 1.26, 1.34 (3H, 4×d, J=7) (2 rotomers); 1.5-2.2 (4H, m); 2.1-3.8 (4H, m); 3.9-4.3 (3H, m); 7.307.8 (5H,m).

reactant | L-alanyl-L-proline hydrochloride | 10.2 mmol, 2.26 g | Cl.N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1
reactant | 3-benzoylacrylic acid | 11.2 mmol, 1.97 g | C(C1=CC=CC=C1)(=O)C=CC(=O)O | C10H8O3
reactant | sodium bicarbonate | 20.3 mmol, 1.71 g | C([O-])(O)=O.[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
solvent | H2O | O | H2O
solvent | HOAc | CC(=O)O | C2H4O2
solvent | BuOH | C(CCC)O | C4H10O
product | N-(1-Carboxy-3-oxo-3-phenylpropyl)-L-alanyl-L-proline | C(=O)(O)C(CC(C1=CC=CC=C1)=O)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C18H22N2O6
